US05290933
N,N-Dimethyl 1,6-dihydro-6-oxo-2-(2-propoxyphenyl)-pyrimidine-5-carboxamide
Ethyl 1,6-dihydro-6-oxo-2-(2-propoxyphenyl)pyrimidine-5-carboxylate (1.5 g, U.S. Pat. No. 4,031,093) was treated with dimethylamine (33% in industrial methylated spirit, 50 ml) in a pressure vessel (414 kPa) at 120° C. for 15 hours. Solvent was removed under reduced pressure affording a yellow oily residue which was washed several times with ether. The volume of the combined ethereal washings was reduced by evaporation to afford on standing overnight a white precipitate (540 mg). This was recrystallised from ether to afford the title compound, 310 mg, m.p. 104°-105° C.

reactant | Ethyl 1,6-dihydro-6-oxo-2-(2-propoxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCCC)C(=O)OCC | C16H18N2O4
reactant | dimethylamine | 50 ml | CNC | C2H7N
product | N,N-Dimethyl 1,6-dihydro-6-oxo-2-(2-propoxyphenyl)-pyrimidine-5-carboxamide | CN(C(=O)C1=CN=C(NC1=O)C1=C(C=CC=C1)OCCC)C | C16H19N3O3
